US06313292B1
STEP D: Preparation of 5-[N-(tert-Butoxycarbonyl)-amino]-2-fluoropyridine-4-carboxylic acid
A mechanically stirred solution of 63.67 g (300 mmol) of 5-[N-(tert-butoxycarbonyl)amino]-2-fluoropyridine, 115 mL of N,N,N′,N′-tetramethyl-ethylenediamine, and 1.8 L of dry diethyl ether was cooled to −78° C. in a Nestar refrigeration unit. n-Butyl lithium (72 mL of a 10 molar solution in hexanes) was added dropwise at such a rate so as to maintain the internal reaction temperature below −60° C. The resultant red-colored solution was stored at −40° C. for 16 hours, recooled to −78° C., then charged for ca. 20 minutes with dry carbon dioxide gas introduced via a spurge tube with the rate of bubbling adjusted so as to maintain the internal reaction temperature below −40° C. The reaction flask was removed from the bath and allowed to warm to room temperature over ca. 1 hour. The orange mixture was poured into 700 mL of cold dilute aqueous sodium hydroxide (final pH=12.5). The layers were separated, and the aqueous layer was further extracted with 2×400 mL of diethyl ether. The aqueous layer was ice cooled and acidified to ca. pH 6 with aqueous hydrochloric acid. A sticky precipitate was filtered off, then the filtrate was again ice cooled and further acidified to pH 3.0. A light yellow precipitate was collected by filtration, washed with 200 mL of water, then redissolved in 1 L of 5% aqueous sodium hydroxide. Insoluble matter was removed by filtration and the two-stage acidification/precipitation described above was repeated on the filtrate to provide 36.9 g (47%) of the dried product as a beige solid, mp 253-257° C. (dec). 1 H NMR in deuterated dimethylsulfoxide [(CD3)2SO]: δ9.83 ppm (s, 1H), 8.85 (s, 1H), 7.49 (d, JH-F=2.8 Hz, 1H), 1.48 (s, 9H).

reactant | 5-[N-(tert-butoxycarbonyl)amino]-2-fluoropyridine | 300 mmol, 63.67 g | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)F | C10H13FN2O2
reactant | N,N,N′,N′-tetramethyl-ethylenediamine | 115 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | diethyl ether | 1.8 L | C(C)OCC | C4H10O
product | 5-[N-(tert-Butoxycarbonyl)-amino]-2-fluoropyridine-4-carboxylic acid | 36.9 g, 47% | C(C)(C)(C)OC(=O)NC=1C(=CC(=NC1)F)C(=O)O | C11H13FN2O4
